US09163021B2
2-(7-Fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propan-1-ol
2-(7-Fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propionic acid methyl ester (Preparation 71, 500 mg, 1.38 mmol) was taken in dry THF (3 mL) and DIBAL-H (25% solution in toluene, 2 mL, 3.03 mmol) was added drop wise at 0° C. and stirred at the same temperature for 2 hours. The reaction was quenched with MeOH, water, 2N HCl at 0° C. and stirred for 15 minutes before being diluted with EtOAc and water. The organic layer was separated and washed with brine, dried over sodium sulphate and evaporated in vacuo to obtain the title compound (65%) that was used in the next step directly without any further purification.

reactant | 2-(7-Fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propionic acid methyl ester | 1.38 mmol, 500 mg | COC(C(C)(C)N1C=C(C=2C=NC=C(C21)F)I)=O | C12H12FIN2O2
reactant | DIBAL-H | 3.03 mmol, 2 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(7-Fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propan-1-ol | 65% | FC=1C2=C(C=NC1)C(=CN2C(CO)(C)C)I | C11H12FIN2O
